US06677347B2
A solution of the compound of Example 53, 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine (980 mg, 2.98 mmol) in 20 mL of CH2Cl2 was treated with triethylamine (1.04 mL, 7.45 mmol) and chilled in an ice water bath. With vigorous stirring, the solution was treated dropwise with methanesulfonyl chloride (0.242 mL, 3.13 mmol). After 18 h, the reaction was treated with 40 mL CH2Cl2, 20 mL CHCl3, 25 mL water and the layers were separated. The organic portion was washed with 1% Na2CO3 solution, water and brine. The organic portion was then dried over Na2SO4, filtered and concentrated to yield a yellow foam. Purification by column chromatography (SiO2, 90:10:0.5 CHCl3:MeOH:NH4OH) followed by recrystallization from CH2Cl2 gave 282 mg of N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide as light yellow crystals.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.98 mmol, 980 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C17H23N5O2
reactant | triethylamine | 7.45 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.13 mmol, 0.242 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide | 282 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C)COCC | C18H25N5O4S
